US07153854B2
To a suspension of 60% sodium hydride (8.79 g) in tetrahydrofuran (500 mL) was added cyclohexanol (10 g) and the mixture was stirred at 0° C. for 0.5 hour. To the mixture was added bromoacetic acid (13.9 g) under ice-water cooling and the mixture was heated under reflux for 2 hours. After adding water to the mixture and organic solvent was evaporated in vacuo. The aqueous solution was diluted with water, washed with ether, acidified with 1 N hydrochloric acid, and extracted with ether. The organic layer was separated, dried over magnesium sulfate, and evaporated in vacuo to give (cyclohexyloxy)acetic acid as colorless oil (13.3 g).

reactant | sodium hydride | 8.79 g | [H-].[Na+]
reactant | cyclohexanol | 10 g | C1(CCCCC1)O | C6H12O
reactant | bromoacetic acid | 13.9 g | BrCC(=O)O | C2H3BrO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | (cyclohexyloxy)acetic acid | 13.3 g | C1(CCCCC1)OCC(=O)O | C8H14O3
